US06518265B1
1-[2-(N-n-Butyl-4-piperidyl)ethyl]-4-chloro-1H-imidazo[4,5-c]quinoline Hydrochloride
To a suspension of 1.20 g of 4-chloro-1-[2-(4-piperidyl)ethyl]-1H-imidazo-[4,5-c]quinoline trifluoroacetate and 0.77 g of potassium carbonate in 6 ml of N,N-dimethylformamide, 0.30 ml of n-butyl bromide was added dropwise at room temperature, and the mixture was stirred for 5 hours. The reaction mixture was adjusted to pH 10 with 10% aqueous sodium hydroxide solution, and extracted with ethyl acetate. The extract was washed successively with water and saturated brine, and dried, and then the solvent was evaporated to give 0.92 g of a pale brown liquid. The resulting liquid was dissolved in tetrahydrofuran. The solution was filtered on silica gel, and the filtrate was concentrated to give 0.87 g of a colorless solid. Hydrochloride was prepared in a conventional method. Recrystallization from a mixture of methanol and ethyl acetate gave colorless crystals having the melting point of from 144 to 158° C.

reactant | 4-chloro-1-[2-(4-piperidyl)ethyl]-1H-imidazo-[4,5-c]quinoline trifluoroacetate | 1.20 g | FC(C(=O)O)(F)F.ClC1=NC=2C=CC=CC2C2=C1N=CN2CCC2CCNCC2
reactant | potassium carbonate | 0.77 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium hydroxide | [OH-].[Na+]
reactant | N,N-dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
solvent | n-butyl bromide | 0.30 ml | C(CCC)Br | C4H9Br
product | 1-[2-(N-n-Butyl-4-piperidyl)ethyl]-4-chloro-1H-imidazo[4,5-c]quinoline Hydrochloride | 0.92 g | Cl.C(CCC)N1CCC(CC1)CCN1C=NC=2C(=NC=3C=CC=CC3C21)Cl | InChI=1S/C21H27ClN4.ClH/c1-2-3-11-25-12-8-16(9-13-25)10-14-26-15-23-19-20(26)17-6-4-5-7-18(17)24-21(19)22;/h4-7,15-16H,2-3,8-14H2,1H3;1H
